US06211199B1
Combine (1H-benzimidazol-2-yl)(piperidin-4-yl)amine (25 mmol), tetrahydrofuran (130 mL), and water (40 mL). Add sodium bicarbonate (75 mmol) and cool in an ice bath. Add dropwise a solution of di-t-butyl dicarbonate (50 mmol) in tetrahydrofuran (20 mL). Warm to ambient temperature. After 18 hours, concentrate the reaction mixture in vacuo to remove most of the tetrahydrofuran and combine the concentrated reaction mixture with dichloromethane. Extract with water and then brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give (1-(t-butoxycarbonyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine:.

reactant | (1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 25 mmol | N1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C12H16N4
reactant | water | 40 mL | O | H2O
reactant | sodium bicarbonate | 75 mmol | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 50 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
product | (1-(t-butoxycarbonyl)-1H-benzimidazol-2-yl)(1-(t-butoxycarbonyl)piperidin-4-yl)amine | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OC(C)(C)C | C22H32N4O4
